US07045610B2
5-[4,6-diamino-3-(2-methoxyethynyl)pyrazolo[3,4-d]pyrimidinyl]-2-(hydroxymethyl)oxolan-3-ol (27)
To a mixture of 4,6-diamino-1-(2-deoxy-β-D-erythro-pentofuranosyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidine (4.2 g, 10.71 mmol), CuI (211 mg, 1.10 mmol), Pd(PPh3)4 (635 mg, 0.553 mmol), and triethylamine (2.2 mL) in 20 mL of anhydrous DMF was added methyl propargyl ether (1.82 mL). The mixture was stirred under argon for 16 h. and then evaporated to dryness. The residue was crystallized from methanol: 3.20 g (89%) yield; TLC (30% methanol in ethyl acetate), Rf=0.63; 1H NMR (DMSO-d6) δ 7.44 (2H, br d, amino), 6.32 (1H, t, J=6.6 Hz, 1′-H), 6.33 (2H, br s, amino), 5.20 (1H, d, J=4.1 Hz, 3′-OH), 4.75 (1H, br t, 5′-OH), 4.40 (2H, s, methylene), 4.36 (1H, m, 3′-H), 3.76 (1H, m, 4′-H), 3.47 & 3.32 (2H, 2×m, 5′-Hs), 3.32 (3H, s, methoxy), 2.68 & 2.14 (2H, 2×m, 2′-Hs).

reactant | 4,6-diamino-1-(2-deoxy-β-D-erythro-pentofuranosyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidine | 10.71 mmol, 4.2 g | NC1=C2C(=NC(=N1)N)N(N=C2I)[C@H]2C[C@H](O)[C@H](O2)CO | C10H13IN6O3
reactant | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | methyl propargyl ether | 1.82 mL | C(C#C)OC | C4H6O
reactant | methanol | CO | CH4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 1.10 mmol, 211 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.553 mmol, 635 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4,6-diamino-3-(2-methoxyethynyl)pyrazolo[3,4-d]pyrimidinyl]-2-(hydroxymethyl)oxolan-3-ol | NC1=C2C(=NC(=N1)N)N(N=C2C#COC)C2CC(C(O2)CO)O | C13H16N6O4
